US07176214B2
N-Methyl-4-methoxybenzylamine
A mixture of p-methoxybenzaldehyde (25 ml; 200 mmol) and 8M methylamine in ethanol (100 ml; 800 mmol) in 100 ml of ethanol was stirred at rt for 18 hours. After removing the volatiles in vacuo, the residue was dissolved in 300 ml of fresh ethanol and sodium borohydride (8.5 g; 225 mmol) was added portionwise over 1.5 hr. Following the addition, the reaction mixture was concentrated to ˜⅓ volume and water (50 ml) was added. After cooling in an ice bath, the stirred mixture was carefully acidified to pH ˜2 with 5% aqueous H2SO4. After stirring 15 minutes, the mixture was basified to pH 14 with 6N NaOH and extracted with ethyl ether (400 ml). The ether layer was washed with water (200 ml), brine (100 ml) and dried over MgSO4. Concentration afforded 28.04 g (93%) of B51.1 as a colorless liquid. (M+H)+=152.13 (HPLC>94%).

reactant | p-methoxybenzaldehyde | 200 mmol, 25 ml | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | methylamine | 8M | CN | CH5N
reactant | sodium borohydride | 225 mmol, 8.5 g | [BH4-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 800 mmol, 100 ml | C(C)O | C2H6O
product | N-Methyl-4-methoxybenzylamine | CNCC1=CC=C(C=C1)OC | C9H13NO
